US05262390
To a solution of 0.10 g (0.018 mole) of sodium methoxide in 20 mL of methanol that had been cooled to 5° C. was added a solution of 8.0 g of methyl 2-(5-chloro-2-formylphenoxy)propionate in 20 mL of methanol. While the temperature was maintained between 0° C. and 5° C., to this mixture was added 0.50 g (0.013 mole) of sodium borohydride. This addition required 10 minutes, during which gas was evolved. The yellow solution was allowed to warm up to room temperature, where it was stirred for four hours. At the end of this period the reaction mixture was poured into 100 mL of 0.25N hydrochloric acid. This mixture was extracted with methylene chloride. The extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated under reduced pressure, leaving a yellow oil as a residue. This oil was placed on a silica gel column and eluted with methylene chloride/ethyl acetate (95/5 ). After the product-containing fractions were combined and the solvents evaporated under reduced pressure, 4.42 g of methyl 2-(5-chloro-2-hydroxymethylphenoxy)propionate was isolated as an orange oil, which subsequently solidified, m.p. 51°-52° C.

reactant | sodium methoxide | 0.018 mole, 0.10 g | C[O-].[Na+]
reactant | methyl 2-(5-chloro-2-formylphenoxy)propionate | 8.0 g | ClC=1C=CC(=C(OC(C(=O)OC)C)C1)C=O | C11H11ClO4
reactant | sodium borohydride | 0.013 mole, 0.50 g | [BH4-].[Na+]
reactant | hydrochloric acid | 0.25N, 100 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | methyl 2-(5-chloro-2-hydroxymethylphenoxy)propionate | 4.42 g | ClC=1C=CC(=C(OC(C(=O)OC)C)C1)CO | C11H13ClO4
